US05194432
7β-[2-(2-Aminothiazol-4-yl)-2-(difluoromethoxyimino)acetamido]-3-(2,5-dimethyl-1-pyrazolio)methyl-3-cephem-4-carboxylate (syn isomer) was prepared from trifluoroacetic acid salt of 7β-[2-difluoromethoxyimino-2-(2-tritylaminothiazol-4-yl)acetamido]-3-(2,5- dimethyl-1-pyrazolio)methyl-3-cephem-4-carboxylate (syn isomer) according to a similar manner to that of Example 29.

reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | 7β-[2-difluoromethoxyimino-2-(2-tritylaminothiazol-4-yl)acetamido]-3-(2,5- dimethyl-1-pyrazolio)methyl-3-cephem-4-carboxylate | FC(ON=C(C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)C[N+]=2N(C=CC2C)C)C(=O)[O-])C1=O)C=1N=C(SC1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)F | C38H33F2N7O5S2
product | 7β-[2-(2-Aminothiazol-4-yl)-2-(difluoromethoxyimino)acetamido]-3-(2,5-dimethyl-1-pyrazolio)methyl-3-cephem-4-carboxylate | NC=1SC=C(N1)C(C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)C[N+]=2N(C=CC2C)C)C(=O)[O-])C1=O)=NOC(F)F | C19H19F2N7O5S2
